### PR TITLE
Showing explicitly that functional_extensionality_dep_good is an equivalence

### PR DESCRIPTION
**Pull request by herbelin**
I was needing it at some time, so, thinking it might be of general interest.

Leaving a possible proof that the equivalence is adjoint for later.

- [x] Added **changelog**.

### CODE REVIEW

File: theories/Logic/FunctionalExtensionality.v [hunk 1]
```diff
@@ -16,16 +16,14 @@
 Lemma equal_f : forall {A B : Type} {f g : A -> B},
   f = g -> forall x, f x = g x.
 Proof.
-  intros A B f g H x.
-  rewrite H.
-  auto.
-Qed.
+  intros A B f g H x. apply (f_equal (fun h => h x)). assumption.
+Defined.
```
Comment (JasonGross) [inline theories/Logic/FunctionalExtensionality.v:20]: Why not do `Definition equal_f ....` and just give the proof term without tactics?

File: theories/Logic/FunctionalExtensionality.v [hunk 2]
```diff
@@ -16,16 +16,14 @@
...
 
 Lemma equal_f_dep : forall {A B} {f g : forall (x : A), B x},
   f = g -> forall x, f x = g x.
 Proof.
-intros A B f g <- H; reflexivity.
-Qed.
+  intros A B f g H x. apply (f_equal (fun h => h x)). assumption.
+Defined.
```
Comment (JasonGross) [inline theories/Logic/FunctionalExtensionality.v:26]: Same here, just write `Definition equal_f_dep := ...`

File: theories/Logic/FunctionalExtensionality.v [hunk 3]
```diff
@@ -130,6 +128,36 @@ Proof.
...
+  : equal_f (functional_extensionality_dep_good f g H) = H.
+Proof.
+  apply f_equal__functional_extensionality_dep_good__fun.
+Defined.
+
+Lemma functional_extensionality_dep_good__equal_f_dep
+           {A B} {f g : forall x : A, B x} (H : f = g)
+  : functional_extensionality_dep_good _ _ (equal_f_dep H) = H.
+Proof.
+  destruct H; simpl; now apply functional_extensionality_dep_good_refl.
```
Comment (JasonGross) [inline theories/Logic/FunctionalExtensionality.v:151]: What does `now` do here?  I think you shouldn't use `now` in transparent proofs, since IIRC it invokes `easy` which does some congruence reasoning.

File: theories/Logic/FunctionalExtensionality.v [hunk 4]
```diff
@@ -130,6 +128,36 @@ Proof.
...
+Defined.
+
+Lemma functional_extensionality_dep_good__equal_f
+           {A B} {f g : A -> B} (H : f = g)
+   : functional_extensionality_dep_good _ _ (equal_f H) = H.
+Proof.
+  destruct H; simpl; now apply functional_extensionality_dep_good_refl.
```
Comment (JasonGross) [inline theories/Logic/FunctionalExtensionality.v:158]: Same here, replace `now` with `reflexivity` or whatever

**Review by JasonGross — DISMISSED** [review]
I'm in support of this

**Comment by herbelin** [comment]
@JasonGross: Move of `Defined` proofs to `Definition` done. Removal of useless `now` done (I had copied the code from a development which conventionally uses `now` in proof leaves, even when not strictly needed).

**Review by JasonGross — APPROVED** [review]

**Review by JasonGross — APPROVED** [review]
LGTM

**Comment by andres-erbsen** [comment]
@coqbot merge now
